US05436134
The intermediate N-phenyl-2-chloroquinolinium chloride is prepared according to the literature method (Marson, TETRAHEDRON, 48, 3659 (1992)). Thus 1.06 g (5 mmoles) of N, N-diphenyl acetamide is heated with 1.69 g (11 mmoles) of phosphorous oxychloride and 0.44 g (6 mmoles) of DMF at 120° C. for 2 hours. The reaction mixture is cooled to room temperature and 15 mL of methylene chloride is added to dissolve the residue. To the solution is added 1.68 g (5 mmoles) of N,2-dimethylbenzothiazolium tosylate and 1.46 g (12 mmoles) of 4-dimethylaminopyridine, and the reaction is stirred overnight (Elderfield, supra). The crude product is first purified on a silica gel column eluting with 2:2:1 ethyl acetate/chloroform/methanol and then metathesized to the iodide salt and recrystallized from methanol to obtain the pure product.

reactant | N, N-diphenyl acetamide | 5 mmoles, 1.06 g | C1(=CC=CC=C1)N(C(C)=O)C1=CC=CC=C1 | C14H13NO
reactant | phosphorous oxychloride | 11 mmoles, 1.69 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 6 mmoles, 0.44 g | CN(C)C=O | C3H7NO
reactant | N,2-dimethylbenzothiazolium tosylate | 5 mmoles, 1.68 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C[N+]1=C(SC2=C1C=CC=C2)C
catalyst | 4-dimethylaminopyridine | 12 mmoles, 1.46 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | N-phenyl-2-chloroquinolinium chloride | [Cl-].C1(=CC=CC=C1)[N+]1=C(C=CC2=CC=CC=C12)Cl | InChI=1S/C15H11ClN.ClH/c16-15-11-10-12-6-4-5-9-14(12)17(15)13-7-2-1-3-8-13;/h1-11H;1H/q+1;/p-1
